US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(6-(pyrrolidin-3-ylamino)pyridin-3-ylamino)quinolin-3-yl)methanone
Following general procedure D, tert-butyl 3-(5-(6-bromo-3-(cyclopropanecarbonyl)quinoline-4-ylamino)pyridin-2-ylamino)pyrrolidine-1-carboxylate (100 mg, 0.18 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (78 mg, 0.27 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (43 mg, 45% over 2 steps) as a yellow-orange solid: 1H NMR (500 MHz, MeOD+TFA-d) δ 9.40 (br s, 1H), 8.26-8.07 (m, 3H), 8.00 (d, J=8.9 Hz, 1H), 7.57 (dd, J=8.9, 2.7 Hz, 1H), 7.34 (s, 2H), 6.85-6.77 (m, 1H), 4.65-4.56 (m, 1H), 3.66-3.49 (m, 2H), 3.44-3.30 (m, 2H), 2.86 (br s, 1H), 2.47-2.36 (m, 1H), 2.18-2.07 (m, 1H), 1.27-1.15 (m, 4H). ESI MS m/z 534 [C28H25Cl2N5O2+H]+; HPLC>99.0% (AUC), tR=10.64 min.

reactant | tert-butyl 3-(5-(6-bromo-3-(cyclopropanecarbonyl)quinoline-4-ylamino)pyridin-2-ylamino)pyrrolidine-1-carboxylate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)NC1CN(CC1)C(=O)OC(C)(C)C | C27H30BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.27 mmol, 78 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(6-(pyrrolidin-3-ylamino)pyridin-3-ylamino)quinolin-3-yl)methanone | 43 mg, 45% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=CC1)NC1CNCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C28H25Cl2N5O2
